US20010016635A1
A 500 mL round bottomed flask was charged with magnesium powder (2.1 g, 86 mmol, Aldrich) and ether (250 mL, Aldrich). 2-Bromo-m-xylene (9.0 mL, 68 mmol, Aldrich) was added over a 25 minute period. The contents were refluxed overnight (18 hours). The brown solution was cooled to room temperature and propyl-trimethoxysilane (17.8 mL, 101 mmol) was added over 20 minutes. A white precipitate formed. The contents were stirred at room temperature overnight (18 hours). The reaction was poured into 0.2N aqueous HCl (500 mL), the layers were separated and the product extracted into ether (3×150 mL). The combined organic portions were dried (MgSO4), filtered, and the solvent removed via rotary evaporation (13.5 g crude). Distillation under reduced pressure (b.p. 57° C., 0.04 mm Hg) provided (2,6-dimethylphenyl)-propyl-dimethoxysilane (6.8 g, 28 mmol, 41% yield); C13H22SiO2 (Mw=238.40); 1H NMR (CDCl3) δ 7.2 (t, 1H), 7.0 (d, 2H), 3.6 (s, 6H), 2.5 (s, 6H), 1.4 (m, 2H), 1.0 (t, 3H), 0.9 (t, 2H); 13C NMR (CDCl3) δ 145.2, 131.0, 129.6, 128.0, 49.8, 23.4, 17.9, 16.7, 16.3; MS m/z (relative abundance) 238 (8), 195 (100), 165 (22), 133 (12), 119 (10), 105 (13), 91 (9), 59 (16).

reactant | magnesium | 86 mmol, 2.1 g | [Mg] | Mg
reactant | 2-Bromo-m-xylene | 68 mmol, 9.0 mL | BrC1=C(C=CC=C1C)C | C8H9Br
reactant | propyl-trimethoxysilane | 101 mmol, 17.8 mL | C(CC)[Si](OC)(OC)OC | C6H16O3Si
reactant | HCl | 0.2N, 500 mL | Cl | ClH
solvent | ether | 250 mL | CCOCC | C4H10O
product | (2,6-dimethylphenyl)-propyl-dimethoxysilane | 28 mmol, 6.8 g, 41% yield | CC1=C(C(=CC=C1)C)[Si](OC)(OC)CCC | C13H22O2Si
